US04159375
7-(p-Chlorophenyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine
A mixture of 4.4 g. of 5-(p-chlorophenyl)-3-hydrazino-1,2,4-triazine and 20 ml. of ethyl orthoformate is refluxed for 4 hours cooled and filtered giving the desired product as light yellow plates, m.p. >300° C.

reactant | 5-(p-chlorophenyl)-3-hydrazino-1,2,4-triazine | ClC1=CC=C(C=C1)C=1N=C(N=NC1)NN | C9H8ClN5
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
product | 7-(p-Chlorophenyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine | ClC1=CC=C(C=C1)C1=NC=2N(N=C1)C=NN2 | C10H6ClN5
